US06482859B1
5.8 g of (S)-2-(butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide and 5 g of concentrated hydrochloric acid are stirred for 10 minutes in a mixture of 20 ml of diethyl ether and 20 ml of dichloromethane at 0° C. Stirring is continued overnight at room temperature. The reaction mixture is introduced into 100 ml of 2N hydrochloric acid and extraction is carried out twice using 150 ml of diethyl ether each time. The aqueous phase is adjusted to pH 11 with 5M sodium hydroxide. Extraction is then carried out twice using 150 ml of ethyl acetate each time. The organic phases are washed twice with 50 ml of saturated sodium chloride solution each time, dried over sodium sulfate and concentrated, yielding (S)-2-amino-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide, which is recrystallised from ethyl acetate/n-hexane, m.p. 115-117° C.

reactant | (S)-2-(butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide | 5.8 g | COC=1C=C(C=CC1OCC#CC1=CC=C(C=C1)Cl)CCNC([C@H](C(C)C)NC(=O)OCCCC)=O | C28H35ClN2O5
reactant | hydrochloric acid | 5 g | Cl | ClH
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | (S)-2-amino-3-methyl-butyric acid N-[2-{3-methoxy-4-(3-(4-chlorophenyl)-2-propyn-1-yloxy)-phenyl}-ethyl]-amide | COC=1C=C(C=CC1OCC#CC1=CC=C(C=C1)Cl)CCNC([C@H](C(C)C)N)=O | C23H27ClN2O3
